US07700589B2
62a) 4-azetidin-1-yl-1-benzyl-piperidine
1.0 mL (17.5 mmol) glacial acetic acid were added to the stirred mixture of 3.0 mL (16.5 mmol) 1-benzyl-4-piperidone, 1.0 g (17.5 mmol) azetidine and 100 mL DCM. Then 6.0 g (39.5 mmol) sodium triacetoxy-borohydride was added batchwise within one hour while cooling with an ice bath and the mixture was stirred for a further 12 h at RT. The reaction mixture was extracted with 200 mL EtOAc, the organic phase was dried, evaporated down under reduced pressure and the residue was purified by chromatography.

reactant | acetic acid | 17.5 mmol, 1.0 mL | C(C)(=O)O | C2H4O2
reactant | 1-benzyl-4-piperidone | 16.5 mmol, 3.0 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | azetidine | 17.5 mmol, 1.0 g | N1CCC1 | C3H7N
reactant | sodium triacetoxy-borohydride | 39.5 mmol, 6.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-azetidin-1-yl-1-benzyl-piperidine | N1(CCC1)C1CCN(CC1)CC1=CC=CC=C1 | C15H22N2
